US08039472B2
Methyl 3-(4-hydroxyphenyl)propionate (0.1 g, 0.55 mmol) is dissolved in DMF (5 ml) and NaH (0.033 g of a 60% dispersion in mineral oil, 0.83 mmol) is added. The reaction mixture is stirred at room temperature for 15 minutes then 2-(2-bromethoxy)tetrahydro-2-H-pyran (0.109 ml, 0.72 mmol) is added and the reaction mixture is left to stir for 18 hours. Dilution with EtOAc (50 ml), washing with water (25 ml), saturated NaHCO3 (25 ml) and brine (25 ml), drying over MgSO4, and concentration in vacuo yields 3-{-4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-propionic acid methyl ester as a colourless oil; [M+H]+ 309

reactant | Methyl 3-(4-hydroxyphenyl)propionate | 0.55 mmol, 0.1 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | NaH | [H-].[Na+]
reactant | 2-(2-bromethoxy)tetrahydro-2-H-pyran | 0.72 mmol, 0.109 ml | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-{-4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)OCCOC1OCCCC1)=O | C17H24O5
